US07547691B2
2-{5-Bromo-2-[2-(1-cyclopropylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide di-hydrochloride
Using the method of 2-{5-chloro-2-[3-(1-cyclopropylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride, the title compound is synthesized from 2-[5-bromo-2-(2-piperidin-4-yl-ethylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid methylamide and isolated as a yellow solid. ES+(m/z) 514 (79Br) and 516 (81Br) [M(free base)+H].

reactant | 2-{5-chloro-2-[3-(1-cyclopropylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride | Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCC2CCN(CC2)C2CC2
reactant | 2-[5-bromo-2-(2-piperidin-4-yl-ethylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid methylamide | CNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Br)NCCC2CCNCC2 | C21H24BrN5OS
product | 2-{5-Bromo-2-[2-(1-cyclopropylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide di-hydrochloride | Cl.Cl.CNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Br)NCCC2CCN(CC2)C2CC2 | InChI=1S/C24H28BrN5OS.2ClH/c1-26-23(31)17-3-2-4-20-18(17)13-21(32-20)22-19(25)14-28-24(29-22)27-10-7-15-8-11-30(12-9-15)16-5-6-16;;/h2-4,13-16H,5-12H2,1H3,(H,26,31)(H,27,28,29);2*1H
